US04299821
2.67 g (6 mmoles) of Z-Glp-Abu-Pro-NH2 are dissolved in 100 ml of acetic acid. 0.5 g of a 10% palladium-on-carbon catalyst are added to the solution, and hydrogen is bubbled through the mixture for one hour. The catalyst is filtered off, the filtrate is evaporated, and the residue is triturated with ether. The resulting 1.82 g of amorphous crude product are dissolved in water, the solution is decolourized, filtered, and the clear filtrate is freeze-dried. 1.70 g (91%) of Glp-Abu-Pro-NH2 are obtained; Rf4 =0.24, [α]D25 =-102.5° (c=1%, in acetic acid).

reactant | Z-Glp-Abu-Pro-NH2 | 6 mmoles, 2.67 g | N1([C@@H](CCC1=O)C(=O)N[C@@H](CC)C(=O)N1[C@H](C(=O)N)CCC1)C(=O)OCC1=CC=CC=C1 | C22H28N4O6
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-carbon | [Pd] | Pd
product | Glp-Abu-Pro-NH2 | 1.70 g, 91% | N1[C@@H](CCC1=O)C(=O)N[C@@H](CC)C(=O)N1[C@H](C(=O)N)CCC1 | C14H22N4O4
